US08461134B2
To a stirred solution of methyl 2-(3-aminophenyl)acetate (8.0 g, 0.048 mol) and 2,6-dimethylpyridine (7.8 g, 0.073 mol) in DCM (200 mL) at 0° C. was slowly added TFAA (12.2 g, 0.058 mol). Then the mixture was stirred at room temperature for two hrs. The mixture was washed with sat. NaHCO3 and brine. The combined organic layer were dried, concentrated and purified by column chromatography (PE:EA 30:1˜5:1) to give methyl 2-(3-(2,2,2-trifluoroacetamido)phenyl)acetate (12.2 g, yield 96%).

reactant | methyl 2-(3-aminophenyl)acetate | 0.048 mol, 8.0 g | NC=1C=C(C=CC1)CC(=O)OC | C9H11NO2
reactant | 2,6-dimethylpyridine | 0.073 mol, 7.8 g | CC1=NC(=CC=C1)C | C7H9N
reactant | TFAA | 0.058 mol, 12.2 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(3-(2,2,2-trifluoroacetamido)phenyl)acetate | 12.2 g, yield 96% | FC(C(=O)NC=1C=C(C=CC1)CC(=O)OC)(F)F | C11H10F3NO3
